US03975445
0.3 g. of all-trans di-nor-canthaxanthin are dissolved in 50 ml. of toluene. After the addition of 10.2 g. of selenium dioxide and 0.7 ml. of water, the mixture is heated to boiling for 16 hours under reflux conditions. The mixture is then introduced into water and extracted with toluene. After evaporation of the toluene extract, there is obtained di-nor-astacin [2,2'-di-nor-β-carotene-3,3',4,4'-tetraone; violerythrin] which, after recrystallization by adsorption on silica gel, has a mass spectrum m/e of 564.

reactant | di-nor-canthaxanthin | CC1=C(C(CC1=O)(C)C)/C=C/C(=C/C=C/C(=C/C=C/C=C(/C=C/C=C(/C=C/C2=C(C(=O)CC2(C)C)C)\C)\C)/C)/C | C38H48O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | selenium dioxide | [Se](=O)=O | O2Se
reactant | water | O | H2O
product | violerythrin | CC1=C(C(C(=O)C1=O)(C)C)/C=C/C(=C/C=C/C(=C/C=C/C=C(/C=C/C=C(/C=C/C2=C(C(=O)C(=O)C2(C)C)C)\C)\C)/C)/C | C38H44O4
